US06676932B2
3,6-Dichloropyridazine (25.0 g, 0.168 mol) was dissolved in morpholine (120 mol), for reflux condition for 24 hours. After cooling, the deposited crystal was filtered, to give 3,6-dimorpholinopyridazine in white crystal (33.7 g as a yield of 80%).

reactant | 3,6-Dichloropyridazine | 0.168 mol, 25.0 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | morpholine | 120 mol | N1CCOCC1 | C4H9NO
product | 3,6-dimorpholinopyridazine | yield of 80% | O1CCN(CC1)C=1N=NC(=CC1)N1CCOCC1 | C12H18N4O2
